US07820683B2
N,N-dimethyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetamide
Using the same procedure as in Example 5, methyl [(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetate (250 mg, 0.55 mmol) was reacted with dimethylamine to give the title compound as a white solid (183 mg, 73%); NMR Spectrum 2.97 (s, 3H), 3.04 (s, 3H), 5.17 (s, 2H), 5.77 (s, 2H), 6.96 (d, 1H), 7.22 (d, 1H), 7.29 (m, 1H), 7.36 (d, 1H), 7.76-7.69 (m, 3H), 7.91 (m, 1H), 8.15 (s, 1H), 8.53 (m, 2H), 8.57 (s, 1H), 11.21 (br s, 1H); Mass spectrum MH+ 454.

reactant | methyl [(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetate | 0.55 mmol, 250 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)OCC(=O)OC | C24H20N6O3
reactant | dimethylamine | CNC | C2H7N
product | N,N-dimethyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetamide | 183 mg, 73% | CN(C(COC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1)=O)C | C25H23N7O2
